US07179823B1
A mixture of 4-[4-(2-ethoxycarbonylethyl)-3-phenyl-1H-pyrazol-1-ylmethyl]benzoic acid (300 mg), 2-picolylamine (95 mg), 1-hydroxybenzotriazole monohydrate (130 mg), WSC (170 mg), and N,N-dimethylformamide (10 ml) was stirred at room temperature for 2.5 days. The reaction mixture was poured into water, which was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated aqueous sodium chloride solution, dried (MgSO4), and concentrated. The residue was subjected to silica gel column chromatography, and ethyl 3-[3-phenyl-1-[3-(2-picolylaminocarbonyl)benzyl]-1H-pyrazol-4-yl]propionate (200 mg, yield: 54%) was obtained as a colorless oily substance from the fraction eluted with ethyl acetate-methanol (50:1, volume ratio).

reactant | 4-[4-(2-ethoxycarbonylethyl)-3-phenyl-1H-pyrazol-1-ylmethyl]benzoic acid | 300 mg | C(C)OC(=O)CCC=1C(=NN(C1)CC1=CC=C(C(=O)O)C=C1)C1=CC=CC=C1 | C22H22N2O4
reactant | 2-picolylamine | 95 mg | N1=C(C=CC=C1)CN | C6H8N2
reactant | 1-hydroxybenzotriazole monohydrate | 130 mg | O.ON1N=NC2=C1C=CC=C2
reactant | WSC | 170 mg | CCN=C=NCCCN(C)C | C8H17N3
solvent | water | O | H2O
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | ethyl 3-[3-phenyl-1-[3-(2-picolylaminocarbonyl)benzyl]-1H-pyrazol-4-yl]propionate | 200 mg, yield: 54% | C1(=CC=CC=C1)C1=NN(C=C1CCC(=O)OCC)CC1=CC(=CC=C1)C(=O)NCC1=NC=CC=C1 | C28H28N4O3
